US09233946B2
5-Chloro-4-(2,5-difluorophenyl)thiophene-2-sulfonyl chloride
To a solution of 2-chloro-3-(2,5-difluorophenyl)thiophene (0.73 g, 3.2 mmol) in CH2Cl2 (100 mL), cooled on ice, chlorosulfonic acid (0.37 g, 3.2 mmol) in CH2Cl2 (50 mL) was added dropwise over 1 h. The reaction was refluxed over night. The reaction mixture was cooled and washed with water (2×100 mL) and brine, dried over MgSO4, filtered and concentrated to a dark brown oil. The oil was dissolved in heptane (50 mL) and stored in the fridge over the weekend. A black tar precipitated. The solution was decanted and concentrated to give the title compound as a light brown oil (0.87 g, 21% over two steps). MS (ESI+) m/z 293 [M−Cl]+.

reactant | 2-chloro-3-(2,5-difluorophenyl)thiophene | 3.2 mmol, 0.73 g | ClC=1SC=CC1C1=C(C=CC(=C1)F)F | C10H5ClF2S
reactant | chlorosulfonic acid | 3.2 mmol, 0.37 g | ClS(=O)(=O)O | ClHO3S
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 5-Chloro-4-(2,5-difluorophenyl)thiophene-2-sulfonyl chloride | 0.87 g, 21% | ClC1=C(C=C(S1)S(=O)(=O)Cl)C1=C(C=CC(=C1)F)F | C10H4Cl2F2O2S2
